US09334278B2
To a solution of N-tert-butyl-2-(3-methylisothiazol-5-ylamino)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (32 mg, 69.5 mol) in dichloromethane (1.2 mL) was added trifluoroacetic acid (158 mg, 107 μL, 1.39 mmol) and the mixture stirred at room temperature for 16 h. The reaction mixture was concentrated in vacuo and the residue obtained diluted with dichloromethane (1.2 mL), methanol (0.6 mL) and ammonium hydroxide (0.15 mL) and stirred at room temperature for 2 h. The mixture was concentrated and triturated with water. The solid was collected by filtration and washed with water and ether to give N-tert-butyl-2-(3-methylisothiazol-5-ylamino)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (18 mg, 54.5 mol, 78.4%) as a brown solid. 1H NMR (400 MHz, DMSO-d) δ ppm: 12.55 (s, 1H), 11.39 (s, 1H), 8.15 (d, J=3.2, 1 H), 8.11 (s, 1H), 7.37 (s, 1H), 6.70 (s, 1H), 2.33 (s, 3H), 1.55 (s, 9H); MS (EI/CI) m/z: 331.1 [M+H].

reactant | N-tert-butyl-2-(3-methylisothiazol-5-ylamino)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 69.5 mol, 32 mg | C(C)(C)(C)NC(=O)C1=CN(C2=NC=C(N=C21)NC2=CC(=NS2)C)COCC[Si](C)(C)C | C21H32N6O2SSi
reactant | trifluoroacetic acid | 1.39 mmol, 107 μL, 158 mg | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 1.2 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1.2 mL | ClCCl | CH2Cl2
solvent | methanol | 0.6 mL | CO | CH4O
solvent | ammonium hydroxide | 0.15 mL | [OH-].[NH4+]
product | N-tert-butyl-2-(3-methylisothiazol-5-ylamino)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 54.5 mol, 18 mg, 78.4% | C(C)(C)(C)NC(=O)C1=CNC2=NC=C(N=C21)NC2=CC(=NS2)C | C15H18N6OS
